US08211925B2
{2-[3-(3-Methoxy-phenoxy)-5-((S)-2-methoxy-1-methyl-ethoxy)-benzoylamino]-thiazol-4-yl}-acetic acid ethyl ester
{2-[3-(3-Methoxy-phenoxy)-5-(S)-2-methoxy-1-methyl-ethoxy)-benzoylamino]-thiazol-4-yl}acetic acid ethyl ester was prepared from 3-{(1S)-2-methoxy-(methylethyl)oxy}-5-{[3-methoxy-phenyl]oxy}benzoic acid (prepared in analogy to the method described in general synthetic descriptions F, using 3-methoxyphenylboronic acid in step D)) and ethyl 2-aminothiazol-4-ylacetate following synthetic description A.

reactant | 3-{(1S)-2-methoxy-(methylethyl)oxy}-5-{[3-methoxy-phenyl]oxy}benzoic acid | COC[C@@H](OC=1C=C(C(=O)O)C=C(C1)OC1=CC(=CC=C1)OC)C | C18H20O6
reactant | 3-methoxyphenylboronic acid | COC=1C=C(C=CC1)B(O)O | C7H9BO3
reactant | ethyl 2-aminothiazol-4-ylacetate | NC=1SC=C(N1)CC(=O)OCC | C7H10N2O2S
product | {2-[3-(3-Methoxy-phenoxy)-5-((S)-2-methoxy-1-methyl-ethoxy)-benzoylamino]-thiazol-4-yl}-acetic acid ethyl ester | C(C)OC(CC=1N=C(SC1)NC(C1=CC(=CC(=C1)O[C@H](COC)C)OC1=CC(=CC=C1)OC)=O)=O | C25H28N2O7S
